US04166115
A solution of 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.3 g.) in a 0.1 N aqueous solution of sodium hydroxide (10.5 ml.) was warmed at 45° C. for 6 hours. Water (15 ml.) and ethyl acetate (30 ml.) were added to the reaction mixture and the resulting mixture was adjusted to pH 3.5 with 10% hydrochloric acid. The aqueous layer was separated, washed with ethyl acetate and adjusted to pH 5.0 with an aqueous solution of sodium bicarbonate. The aqueous solution was subjected to column chromatography on Amberlite XAD-2 (20 ml.)(prepared by Rohm & Haas Co.) using 10% ethanol as developing solvent. The eluate containing object compound was collected and lyophilized to give 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.12 g.).

reactant | 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.3 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C18H16F3N9O6S3
reactant | sodium hydroxide | 10.5 ml | [OH-].[Na+]
reactant | Water | 15 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.12 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)N | C16H17N9O5S3
